US08729078B2
In a 100 mL round-bottomed flask, 6-tert-butyl-2-(3-chloro-2-(hydroxymethyl)phenyl)-3-methyl-3,4-dihydrophthalazin-1(2H)-one (500 mg, 1.39 mmol, Eq: 1.00), acetic anhydride (711 mg, 657 μl, 6.97 mmol, Eq: 5) and pyridine (331 mg, 338 μl, 4.18 mmol, Eq: 3) were combined with dichloromethane (10.0 ml) to give a colorless solution. The reaction mixture was heated to 45° C. and stirred for 8 h. Cooled to room temperature and stirred for 48 h. The crude reaction mixture was concentrated in vacuo to a tan oil. The crude material was purified by flash chromatography (silica gel, 20%-30% ethyl acetate/hexanes gradient) to give 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-chlorobenzyl acetate (489 mg, 88%): 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.37 (s, 9H) 2.03 (s, 3H) 2.62 (s, 3H) 4.45 (s, 2H) 5.33 (s, 2H) 7.23 (d, J=1.51 Hz, 1H) 7.35-7.39 (m, 2H) 7.43-7.52 (m, 2H) 8.03 (d, J=8.31 Hz, 1H).

reactant | 6-tert-butyl-2-(3-chloro-2-(hydroxymethyl)phenyl)-3-methyl-3,4-dihydrophthalazin-1(2H)-one | 1.39 mmol, 500 mg | C(C)(C)(C)C=1C=C2CN(N(C(C2=CC1)=O)C1=C(C(=CC=C1)Cl)CO)C | C20H23ClN2O2
reactant | acetic anhydride | 6.97 mmol, 657 μl, 711 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 4.18 mmol, 338 μl, 331 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10.0 ml | ClCCl | CH2Cl2
product | 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-chlorobenzyl acetate | 489 mg, 88% | C(C)(=O)OCC1=C(C=CC=C1Cl)N1C(C2=CC=C(C=C2CN1C)C(C)(C)C)=O | C22H25ClN2O3
